2137-08-24 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2137-8-23**] 02:30 PM
   abd ultrasound
 NASAL SWAB - At [**2137-8-23**] 05:00 PM
 EKG - At [**2137-8-23**] 06:50 PM
 FEVER - 101.7
F - [**2137-8-23**] 08:00 PM
   -Got tylenol for fever and cultured
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2137-8-23**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-24**] 12:40 AM
   Other medications:
   500 mL NS 4. Docusate Sodium 5. Heparin 6. Ibuprofen 7. Morphine
   Sulfate 8. Omeprazole
   9. Ondansetron 10. Pneumococcal Vac Polyvalent 11. Senna 12. Sodium
   Chloride 0.9% Flush 13. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: breathing well, no pain at rest, c/o new throat pain
   this am
   Flowsheet Data as of  [**2137-8-24**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.1
C (98.8
   HR: 93 (82 - 119) bpm
   BP: 101/61(70) {83/52(59) - 112/65(74)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,620 mL
                                                                    387 mL
   PO:
                                                                    470 mL
             TF:
   IVF:
                                                                  1,150 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                      0 mL
   Urine:
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,245 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.48/28/140/18/0
   Physical Examination
   Gen: NAD, jaundiced
   CV: RRR nl s1/s2 no murmurs
   Pulm: cta b/l
   Neck: JVD to level of mandible
   Abd: +BS, +distended, ttp RUQ and periumbilical, enlarged liver, spleen
   not palpable
   Ext: b/l LE edema significantly more left vs right.
   Labs / Radiology
   154
   8.4
   77 mg/dL
   1.2 mg/dL
   18 mEq/L
   5.1 mEq/L
   27 mg/dL
   101 mEq/L
   129 mEq/L
   26
   18.2
        [image002.jpg]
                             [**2137-8-23**]  06:01 PM
                             [**2137-8-23**]  07:38 PM
   Hct
   28.3
   Cr
   1.2
   TCO2
   21
   Glucose
   77
   Other labs: Lactic Acid:2.8 mmol/L, Albumin:1.8 g/dL, LDH:2724 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   UA 5.4 from 4.9
   PT 19.3, PTT 31.0, INR 1.8
   ALT 115, AST 468, AP 372, TB 7.8, Alb 1.9
   Fluid analysis / Other labs: blood and urine ctx [**8-23**] and [**8-22**] pending
   Imaging: b/l LE U/S [**8-23**]:
   No evidence of DVT in the bilateral legs.
   [**8-23**] CXR NL per HO read
   [**8-23**] Bone Marrow pending
   [**8-23**] U/S:
   Innumerable hyperechoic liver masses which are amenable to
   ultrasound-guided targeted liver biopsy.
   CT abd/pelvis [**8-23**]:
   1. Innumerable peripheral enhancing with apparent central necrosis
   masses
   distributed throughout the right and left lobes of the liver. The liver
   itself is enlarged. Differential includes metastatic foci or less
   likely
   multifocal primary tumors. Multifocal abscess is much less likely on
   the
   differential.
   2. Abnormal appearance to the gastric mucosa may represent a mass
   lesion. If
   clinically indicated would recommend a repeat EGD with repeat biopsy.
   3. Multiple cystic-appearing masses throughout the pancreas of
   uncertain
   etiology but could represent simple pancreatic cysts or side branch
   IPMN and
   would recommend further evaluation with MRCP. At this time possible
   pancreatic divisum anatomy could be further evaluated.
   4. Marked pericholecystic fluid but the gallbladder wall itself is not
   thickened and the gallbladder is not distended. If there is persistent
   clinical concern for cholecystitis would recommend further evaluation
   with
   ultrasound or HIDA scan.
   5. Avid enhancement of the adrenals may be an incidental finding but in
   certain clinical settings can represent hypovolemic state and would
   recommend
   correlation with patient's symptoms.
   6. Right pleural effusion with adjacent atelectasis. Small areas of
   consolidation cannot be fully excluded.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is a 73 y/o with h/o ocular phempigus, BPH
   found to have liver masses without clear primary cancer at [**Hospital3 **],
   transfered to [**Hospital1 **] for repeat liver bx. Transfered to ICU for
   hypotension, tachypnea, and presistent fevers
   #  Liver Mass: Per wet red of US liver there is extensive replacement
   of liver parenchyma with nodules suspicious for tumor. No sign of
   abcess. No biliary dilation. Previous infectious work up at [**Hospital3 **]
   also negative. Fevers most likely [**3-11**] tumor. WBC of 15 on presentation
   10 days ago without consistent abx therapy also reassuring against
   infectious etiology. NL AFP and number of nodules suggestive against
   primary hepatic ca, however bx too necrotic to rule this out. In
   addition elevated ferritin and greek ethnicity reaising possbile
   hemachromatosis. W/u to date with EGD, MRCP, CT chest, head, EGD, bone
   scan witout sign of primary oncologic process. Rapid worsening of LFTs,
   LDH, and abd pain since admission to [**Hospital3 **] in setting of
   discontinuing steroids concerning for Lymphoma. Elevattion of tbili /
   alk phos likely [**3-11**] mass effect on biliary tree from numerous lesions.
   presistant fever with abd pain and withdraw of steroids raising concern
   for adrenal insufficiency, however am Cortisol 26.5
   - f/u prelim of Bone bx
   - Heme onc recs
   - hepatology recs
   - Given elevated INR, give PO Vit K 5mg daily X 3 days so that INR
   lower for liver bx.
   - trend K, phos, ca, uric acid, LDH for signs of tumor lysis [**Hospital1 **],
   consider treatment for lymphoma if labs increase
   - trend LFTS
   -f/u final read CT
   -?liver bx on Monday
   - hold abx for now
   -[**Hospital3 **] imaging in chart
   - If decompensates consider 40mg IV decadron daily for presumptive
   lymphoma (heme/onc recs)
   .
   #  Abd pain, nausea: both improved this morning; RUQ pain likely [**3-11**]
   extensive tumor invastion and hepatitis. Fever, RUQ, and elevated tibil
   raises concern for cholangitis, however chronicity of fevers and stable
   white count, lack of evidence on limited RUQ  USmakes this unlikely,
   stable tibili though high, is reassuring
   - serial abd exam
   - trend LFTs
   - f/u final CT
   - avoid excessive Tylenol
   - f/u hepatitis serologies
   .
   # Leukocytosis: ddx including infection vs hematologic malignancy vs
   adrenal insufficency. In setting fever, of tachycardia, relative
   hypotension concerning for infection / shock. However chronicity over
   last 10 days without presistent abx making infection less likely. Neg
   infectious w/u at [**Hospital3 **] and lack of infection on path also
   reassuring. AM cortisol of 26 makes adrenal insufficiency unlikely.
   Most likely [**3-11**] malignancy. Elevated lactate likely [**3-11**] necrotic
   tissue.
   - hold abx, consider starting if VS become unstable
   - f/u bone marrow
   - trend lactate
   .
   # tachycardia / relative hypotension: BP, HR appears close to VS at
   [**Hospital3 **]. Likely [**3-11**] to fevers and intravascular volume depletion
   (given poor PO intake and low alb). Infection also possible as
   mentioned above.   Resolved overnight [**Date range (1) 7807**]
   - trend VS
   - IVF as needed
   .
   # Tachypneia: pt taking swallow breaths but sating well and appears
   comfortable. Likely splinting 2.2 rib and RUQ pain
   - CXR to eval for pleural effusion / PNA, f/u final read
   - ABG with lactate
   - LENIs normal
   .
   # Hyponatremia: Na of 129. (128-130 throughout [**Hospital3 **] stay). Given
   dry mucous membranes, elevated BUN, likely represents intravascular
   volume depletion despite LE edema.
   - serum osm, U osm and NA
   .
   # Anemia: HCT stable at 26 at [**Hospital1 **]. Required 4 u pRBC at [**Hospital3 **], also
   guiac postitive stool, but no frank bleed. Given additional illness
   anemia of chronic disease also likely contributing.
   - trend HCT
   .
   # Asymetric LE edema: edema likely [**3-11**] hypoalbumenia and possible
   increase in portal hypotension. However, asymetric and in setting of
   tachypnea and cancer PE also possible
   - LENIs negative
   .
   #  Ocular pemphigus. No active concerns.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-8-23**] 06:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending above ; possible c/o as VS more stable

2137-08-24 09:13:00 Physician Attending Progress Note
Chief Complaint: Fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo male with BPH and ocular pemphigus on MTX /prednisone/[**Hospital 7809**]
   Transferred from [**Hospital3 **]
   3 wks of poor appetite- multiple liver lesions on CT
   Admitted OSH [**2044-8-11**] levaquin/flagyl, US guided bx showed malignant
   cells but unable to determine further. Mildly elevated CA [**47**]-9; other
   markers negative. No invovlement by head /chest CT. EGD with friable
   tissue in stomach but negative biopsies. Course also notable for guiac
   + stools without frank bleed.
   Persistently febrile. Steroids tapered.
   Since arrival [**Hospital 7810**] transferred from floor due to tachycardia and
   slightly low BP's.
   BMBx performed due to concern of lymphoma (worsening LFT's off
   steroids). Touch prep without obvious malignancy. Liver biopsy not yet
   performed due to INR of 1.9
   Overnight: continued abdominal discomfort
   24 Hour Events:
 ULTRASOUND - At [**2137-8-23**] 02:30 PM
   abd ultrasound
 NASAL SWAB - At [**2137-8-23**] 05:00 PM
 EKG - At [**2137-8-23**] 06:50 PM
 FEVER - 101.7
F - [**2137-8-23**] 08:00 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2137-8-23**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-24**] 12:40 AM
   Omeprazole (Prilosec) - [**2137-8-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-24**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.3
C (97.3
   HR: 106 (82 - 119) bpm
   BP: 99/63(72) {83/52(59) - 112/65(74)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,620 mL
                                                                    403 mL
   PO:
                                                                    470 mL
             TF:
   IVF:
                                                                  1,150 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                      0 mL
   Urine:
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,245 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.48/28/140/20/0
   Physical Examination
   Alert, well appearing. Feels better
   Chest; scattered rhonchi insp and expira
   CV: RRR no M/G/R
   Skin:  warm, n
l turgor, no rashes
   Abdomen: distended with epigastric tenderness to palpation, +bs
   Ext: [**3-12**]+ edema, R>L; calves NT
   MS: alert and oriented, follows commands appropriately
   Labs / Radiology
   8.4 g/dL
   154 K/uL
   81 mg/dL
   1.1 mg/dL
   20 mEq/L
   5.0 mEq/L
   30 mg/dL
   102 mEq/L
   130 mEq/L
   26.0 %
   18.2 K/uL (range 15-19)
        [image002.jpg]
                             [**2137-8-23**]  06:01 PM
                             [**2137-8-23**]  07:38 PM
                             [**2137-8-24**]  05:16 AM
   WBC
   18.2
   Hct
   28.3
   26.0
   Plt
   154
   Cr
   1.2
   1.1
   TCO2
   21
   Glucose
   77
   81
   Other labs: PT / PTT / INR:19.3/31.0/1.8, ALT / AST:115/468, Alk Phos /
   T Bili:372/7.8, Lactic Acid:2.8 mmol/L, Albumin:1.9 g/dL, LDH:2724
   IU/L, Ca++:7.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   Imaging: CT abd: portal vein patent, abd markedly thickened, GB with
   surrounding fluid but no classic for cholecystitis
   Bilateral LE negative for DVT
   RUQ US: prelim large liver masses
   UA 5.4
   Microbiology: Blood and urine cultures pending
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPOTENSION (NOT SHOCK)
   73 yo male with multiple constitutional symptoms (malaise, fever) in
   the context off multiple liver masses- BMBx results pending but major
   differential of lymphoma vs stomach malignancy
   *Await BMBx results- core biopsy possibly back today
   *EGD results so far negative but with thickened gastric walls, primary
   malignancy still on the differential
   *Unable to get liver biopsy yesterday- timing partly based on pt
   clinical course as if he deteriorates requiring steroids, this may
   decrease yield of subsequent biopsy results. However, pt currently
   coagulopathic so at increased risk of bleed with liver biopsy. Will
   speak with liver service regarding order of tests (repeat EGD vs liver)
   if BM results are unrevealing
   *Give vit K to improve coagulopathic labs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-8-23**] 01:56 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:35 minutes
   Patient is critically ill

2137-08-25 08:14:00 Physician Resident Progress Note
Chief Complaint: Gastric carcinoma w/ mets
   24 Hour Events:
   - CT read as locally-advanced gastric carcinoma with innumerable
   hepatic metastases.
   - low U/O [refusing foley] . Got total 2L fluid bolus overnight
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2137-8-24**] 08:00 AM
   Morphine Sulfate - [**2137-8-24**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-25**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-25**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 105 (97 - 118) bpm
   BP: 92/59(66) {90/49(58) - 112/67(74)} mmHg
   RR: 26 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,038 mL
                                                                  1,987 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,838 mL
                                                                  1,787 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    200 mL
   Urine:
                                                                    750 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,288 mL
                                                                  1,787 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   8.2 g/dL
   122 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.6 mEq/L
   36 mg/dL
   99 mEq/L
   130 mEq/L
   25.3 %
   18.4 K/uL
        [image002.jpg]
                             [**2137-8-23**]  06:01 PM
                             [**2137-8-23**]  07:38 PM
                             [**2137-8-24**]  05:16 AM
                             [**2137-8-24**]  08:08 PM
                             [**2137-8-25**]  04:04 AM
   WBC
   18.2
   18.4
   Hct
   28.3
   26.0
   25.3
   Plt
   154
   162
   Cr
   1.2
   1.1
   1.2
   1.2
   TCO2
   21
   Glucose
   77
   81
   103
   122
   Other labs: PT / PTT / INR:18.8/29.0/1.7, ALT / AST:127/539, Alk Phos /
   T Bili:396/8.4, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:1.0 %, Lactic Acid:2.8 mmol/L, Albumin:1.9 g/dL,
   LDH:2660 IU/L, Ca++:7.1 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Bone marrow biopsy pending
   Imaging: CT abd/pelvis [**8-23**]: 1. Large locally-advanced gastric
   carcinoma with innumerable hepatic
   metastases.
   2. Multiple small cystic-appearing masses throughout the pancreas of
   probably
   represent side-branch IPMN. This can be followed with CT at the time of
   subsequent follow up for his metastatic liver disease .
   6. Right pleural effusion with adjacent atelectasis. Small areas of
   consolidation cannot be fully excluded
   [**2137-8-23**] Bilateral LE U/S: no DVT
   Microbiology: UC: no growth
   BC: no growth to date
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is a 73 y/o with h/o ocular phempigus, BPH
   found to have liver masses without clear primary cancer at [**Hospital3 **],
   transfered to [**Hospital1 **] for repeat liver bx. Transfered to ICU for
   hypotension, tachypnea, and presistent fevers
   #  Gastric carcinoma w/ liver mets
   - f/u prelim of Bone bx
   - Heme onc following
   - hepatology following
   - Given elevated INR, give PO Vit K 5mg daily X 3 days so that INR
   lower for possible liver bx on Monday.
   - trend K, phos, ca, uric acid, LDH, LFTS, lactate
   - Pain control: Increased to oxycodone 10mg po q4h today.
   #Leukocytosis:
   - Started Vanc/Cefipime for HAP
   - Watch WBC
   #Low UOP: Given high PSH, could be [**3-11**] enlarged prostate
   - Pt refusing foley, will re-address today
   - Consider bladder scan
   - Send urine lytes and monitor Cr
   #  Abd pain, nausea: both improved; RUQ pain likely [**3-11**] extensive tumor
   invastion and hepatitis.
   - serial abd exam
   - trend LFTs
   - avoid excessive Tylenol
   - f/u hepatitis serologies
   # tachycardia / relative hypotension: BP, HR appears close to VS at
   [**Hospital3 **]. Likely [**3-11**] to fevers and intravascular volume depletion
   (given poor PO intake and low alb).
   - trend VS
   - IVF as needed
   # Tachypneia: pt taking swallow breaths but sating well and appears
   comfortable. Likely splinting 2.2 rib and RUQ pain
   - CXR showed no pleural effusion but elevated diaphragm likely [**3-11**]
   large liver
   - LENIs normal
   # Hyponatremia: Given dry mucous membranes, elevated BUN, likely
   represents intravascular volume depletion despite LE edema.
   - serum osm  high
   - Send U osm and NA
   # Anemia: HCT stable at 26 at [**Hospital1 **]. Required 4 u pRBC at [**Hospital3 **], also
   guiac postitive stool, but no frank bleed. Given additional illness
   anemia of chronic disease also likely contributing.
   - trend HCT
   # Asymetric LE edema: edema likely [**3-11**] hypoalbumenia and possible
   increase in portal hypotension.
   - LENIs negative
   #  Ocular pemphigus. No active concerns.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-8-23**] 01:56 PM
   22 Gauge - [**2137-8-24**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:possible call out

2137-08-25 10:22:00 Physician Attending Progress Note
Chief Complaint: fatigue
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo male with ocular pemphigoid admitted with weakness, fevers from
   presumed malignancy- lymphoma vs gastric source
   24 Hour Events:
   -CT abdomen with multiple liver mets and concern for primary gastric CA
   -required fluid resucitation for low urine output- pt still refusing
   Foley
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2137-8-24**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-25**] 07:30 AM
   Other medications:
   omeprazole, vitamin K, oxycodone PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-25**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 108 (97 - 118) bpm
   BP: 101/62(72) {90/49(58) - 112/67(74)} mmHg
   RR: 26 (18 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,038 mL
                                                                  2,067 mL
   PO:
                                                                    200 mL
                                                                    260 mL
   TF:
   IVF:
                                                                  1,838 mL
                                                                  1,807 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    200 mL
   Urine:
                                                                    750 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,288 mL
                                                                  1,867 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical);
   scattered rales at bases
   Abdominal: Soft, Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing, [**3-12**]+ peripheral edema
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.2 g/dL
   162 K/uL
   122 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.6 mEq/L
   36 mg/dL
   99 mEq/L
   130 mEq/L
   25.3 %
   18.4 K/uL
        [image002.jpg]
                             [**2137-8-23**]  06:01 PM
                             [**2137-8-23**]  07:38 PM
                             [**2137-8-24**]  05:16 AM
                             [**2137-8-24**]  08:08 PM
                             [**2137-8-25**]  04:04 AM
   WBC
   18.2
   18.4
   Hct
   28.3
   26.0
   25.3
   Plt
   154
   162
   Cr
   1.2
   1.1
   1.2
   1.2
   TCO2
   21
   Glucose
   77
   81
   103
   122
   Other labs: PT / PTT / INR:18.8/29.0/1.7, ALT / AST:127/539 , Alk Phos
   / T Bili:396/8.4 (was 7.8); DB 6.1, Differential-Neuts:90.0 %, Band:0.0
   %, Lymph:2.0 %, Mono:7.0 %, Eos:1.0 %, Lactic Acid:2.8 mmol/L,
   Albumin:1.9 g/dL, LDH:2660 IU/L (was 2400), Ca++:7.1 mg/dL, Mg++:2.6
   mg/dL, PO4:2.9 mg/dL
   Imaging: CT abd: cystic mass in pancreas, right pleural effusion with
   adjacent atelectasis
   bilateral LENI's without DVT
   Microbiology: Blood and urine cultures NGTD
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPOTENSION (NOT SHOCK)
   78 yo male with ocular pemphigoid admitted with fevers with mets in
   liver
   1. Probable malignancy- prelim core Bx#1 from BMBx unrevealing, final
   report not back yet.
   Concern for primary gastric-
   Consult teams in process of deciding whether EGD/bx vs liver bx would
   result in best yield-risk ratio
   2. Tachycardia/FEN: Still some concern that pt not completely
   resuscitated, but massive peripheral edema/low albumin/liver compromise
   also suggest that  pt is  total body overloaded. Assessment of volume
   status made more difficult by pt
s refusal yesterday to have Foley-
   bladder looks somewhat distended so CT scan so his documented I
s and
   O
s may be somewhat misleading. Plan Foley, blood transfusion.
   3. Leukocytosis: unchanged WBC today
   CT abd reviewed- unclear whether atelectasis vs infiltrate but given
   immunocompromised status, reasonable to give an empiric course of HCAP
   coverage with Vanc/Cefipime
   4. Pain control- he continues to have pain but BP dropped with IV
   morphine- will increase oxycodone dosing.
   5. LE edema: negative for DVT, may be from low albumin . Check echo
   6. Hyponatremia:  will check urine
lytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-8-23**] 01:56 PM
   22 Gauge - [**2137-8-24**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes
   Pt is critically ill

2137-08-26 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -given 1 unit pRBC and several Liters IVF to maintain adequate UOP and
   manage tachycardia/BP
   -put in foley
   -On vanc/cefipime/cipro
   - Liver biopsy booked in IR. Since INR > 1.5, given FFP.
   - TTE ordered
   - Temp spike 100.5. Given tylenol and pan-cultured
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2137-8-25**] 02:30 PM
   Vancomycin - [**2137-8-25**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-25**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 104 (103 - 117) bpm
   BP: 100/59(68) {90/49(58) - 110/78(84)} mmHg
   RR: 22 (21 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  4,015 mL
                                                                    962 mL
   PO:
                                                                    560 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  3,455 mL
                                                                    562 mL
   Blood products:
   350 mL
   Total out:
                                                                    950 mL
                                                                    190 mL
   Urine:
                                                                    950 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,065 mL
                                                                    772 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   119 K/uL
   8.7 g/dL
   88 mg/dL
   0.8
   19 mEq/L
   4.8 mEq/L
   35 mg/dL
   101 mEq/L
   128 mEq/L
   26.6 %
   19.0 K/uL
        [image002.jpg]
                             [**2137-8-23**]  06:01 PM
                             [**2137-8-23**]  07:38 PM
                             [**2137-8-24**]  05:16 AM
                             [**2137-8-24**]  08:08 PM
                             [**2137-8-25**]  04:04 AM
                             [**2137-8-25**]  09:29 PM
                             [**2137-8-26**]  03:43 AM
   WBC
   18.2
   18.4
   19.0
   Hct
   28.3
   26.0
   25.3
   23.2
   26.6
   Plt
   154
   162
   119
   Cr
   1.2
   1.1
   1.2
   1.2
   1.3
   TCO2
   21
   Glucose
   77
   81
   103
   122
   88
   Other labs: PT / PTT / INR:18.6/34.4/1.7, ALT / AST:165/746, Alk Phos /
   T Bili:394/11.4, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:1.0 %, Lactic Acid:2.8 mmol/L, Albumin:1.9 g/dL,
   LDH:2660 IU/L, Ca++:6.8 mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Bone marrow biopsy pending
   Microbiology: Blood culture from [**8-22**] and [**8-23**] no growth to date.
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is a 73 y/o with h/o ocular phempigus, BPH
   found to have liver masses without clear primary cancer at [**Hospital3 **],
   transfered to [**Hospital1 **] for repeat liver bx. Transfered to ICU for
   hypotension, tachypnea, and presistent fevers
   #  Gastric carcinoma w/ liver mets
   - f/u prelim of Bone bx
   - Heme onc following
   - hepatology following. They suggested IR guided liver biopsy after
   speaking to GI. Biopsy scheduled for today
   - Given elevated INR, give PO Vit K 5mg daily X 3 days . Will also give
   FFP for procedure
   - trend K, phos, ca, uric acid, LDH, LFTS, lactate and watch for tumor
   lysis syndrome
   #Leukocytosis:
   - Vanc/Cefipime for HAP day [**3-17**]. Changed Cefipime to 2g Q12
   - Added Cipro yesterday per ID recommendation
   #Low UOP: Potentially 3rd spacing from infection, or poor flow from
   obstruction from large liver
   - Cr improved.  Continue fluid resuscitation as needed
   #  Abd pain, nausea: both improved; RUQ pain likely [**3-11**] extensive tumor
   invasion and hepatitis.
   - serial abd exam
   - trend LFTs
   - Liver said 2g Tylenol OK, but stop ibuprofenl
   - f/u hepatitis serologies
   - Pain control: Increased to oxycodone 5 - 10mg po q4h today. Improved
   pain control
   # tachycardia / relative hypotension: BP, HR appears close to VS at
   [**Hospital3 **]. Likely [**3-11**] to fevers and intravascular volume depletion
   (given poor PO intake and low alb).
   - trend VS
   - IVF as needed
   - TTE ordered for today
   # Hyponatremia: Given dry mucous membranes, elevated BUN, also could be
   a component of intravascular volume depletion despite LE edema.
   - Will obtain urine lytes now
   - Will give 500cc bolus NS
   - Will then obtain another set of urine lytes 1 hr after bolus to see
   if urine/serum lytes imrpoving
   # Anemia: HCT stable at 26. Guiac postitive stool, but no frank bleed.
   Given additional illness anemia of chronic disease also likely
   contributing.
   - trend HCT [**Hospital1 **]
    # Asymetric LE edema: edema likely [**3-11**] hypoalbumenia and possible
   increase in portal hypotension.
   - LENIs negative
   - Compression stockings
   #  Ocular pemphigus. No active concerns.
   ICU Care
   Nutrition:
   Comments: NPO for procedure, otherwise regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2137-8-23**] 01:56 PM
   22 Gauge - [**2137-8-24**] 05:45 PM
   18 Gauge - [**2137-8-26**] 12:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Daily wake up
   Comments:
   Communication:  Comments: Spoke with family at bedside yesterday
   Code status: Full code
   Disposition :ICU

2137-08-27 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per HO recs and family discussion, may be leaning towards palliative
   care
   -had liver bx yesterday, ?endoscopy today; NPO after m/n in case
   -echo basically NL
   -UOPs decreased and BP to 80s, given 500cc NS then 25G Albumin in 500cc
   NS at approx. 2140
   -Increased Cr to 1.8 from 0.9-> put in for UA, 1U PRBC, Renal U/S
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-26**] 08:32 PM
   Cefipime - [**2137-8-26**] 11:59 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-26**] 09:07 PM
   Other medications:
   500 mL NS 4. 500 mL NS 5. Acetaminophen 6. Albumin 5% (25g / 500mL) 7.
   CefePIME 8. Ciprofloxacin HCl
   9. Docusate Sodium 10. Heparin 11. Morphine Sulfate 12. Omeprazole 13.
   Ondansetron 14. OxycoDONE (Immediate Release)
   15. Phytonadione 16. Pneumococcal Vac Polyvalent 17. Senna 18. Sodium
   Chloride 0.9% Flush 19. Sodium Chloride 0.9% Flush
   20. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt. feels very swollen and states that because of
   this he is unable to move; extreme pain to any palpation of abdomen,
   much worse; no nausea
   Flowsheet Data as of  [**2137-8-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 100 (98 - 115) bpm
   BP: 99/61(70) {73/40(45) - 105/65(74)} mmHg
   RR: 23 (20 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98 kg (admission): 87.8 kg
   Height: 68 Inch
    Bladder pressure: 5 (5 - 5) mmHg
   Total In:
                                                                  3,512 mL
                                                                    542 mL
   PO:
                                                                    250 mL
   TF:
   IVF:
                                                                  2,250 mL
                                                                     75 mL
   Blood products:
                                                                  1,012 mL
                                                                    467 mL
   Total out:
                                                                    720 mL
                                                                    220 mL
   Urine:
                                                                    720 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,792 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   Gen: appears uncomfortable
   Skin: jaundiced
   CV:  tachycardic RR nl s/s2 no murmurs
   Pulm: CTA b/l but shallow breaths
   Abd: +BS, distended and very TTP RUQ
   Ext: significant edema peripherally LE>UE at 3+ with scrotal edema
   Labs / Radiology
   102 K/uL
   7.7 g/dL
   83 mg/dL
   1.8 mg/dL
   17 mEq/L
   5.0 mEq/L
   44 mg/dL
   102 mEq/L
   129 mEq/L
   22.8 %
   18.5 K/uL
        [image002.jpg]
                             [**2137-8-23**]  06:01 PM
                             [**2137-8-23**]  07:38 PM
                             [**2137-8-24**]  05:16 AM
                             [**2137-8-24**]  08:08 PM
                             [**2137-8-25**]  04:04 AM
                             [**2137-8-25**]  09:29 PM
                             [**2137-8-26**]  03:43 AM
                             [**2137-8-26**]  07:46 PM
                             [**2137-8-27**]  02:03 AM
   WBC
   18.2
   18.4
   19.0
   18.5
   Hct
   28.3
   26.0
   25.3
   23.2
   26.6
   25.6
   22.8
   Plt
   154
   162
   119
   102
   Cr
   1.2
   1.1
   1.2
   1.2
   0.8
   0.9
   1.8
   TCO2
   21
   Glucose
   77
   81
   103
   122
   88
   108
   83
   Other labs: PT / PTT / INR:19.7/33.1/1.8, ALT / AST:165/729, Alk Phos /
   T Bili:338/15.5, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:1.0 %, Lactic Acid:2.8 mmol/L, Albumin:1.9 g/dL,
   LDH:2660 IU/L, Ca++:7.2 mg/dL, Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: HCV negative
   Uric acid 6->7.5
   Final uctx [**8-22**] negative
   Blood ctxs [**2048-8-21**] NGTD, pending
   Echocardiogram:
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thickness, cavity size, and global systolic function
   are normal (LVEF>55%). Due to suboptimal technical quality, a focal
   wall motion abnormality cannot be fully excluded. Right ventricular
   chamber size and free wall motion are normal. The ascending aorta is
   mildly dilated. The aortic valve leaflets (?#) appear structurally
   normal with good leaflet excursion. No aortic regurgitation is seen.
   The mitral valve leaflets are structurally normal. No mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. Normal biventricular cavity sizes
   with preserved global biventricular systolic function.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is a 73 y/o with h/o ocular phempigus, BPH
   found to have liver masses without clear primary cancer at [**Hospital3 **],
   transfered to [**Hospital1 **] for repeat liver bx. Transfered to ICU for
   hypotension, tachypnea, and presistent fevers
   #  Gastric carcinoma w/ liver mets
   - f/u prelim of Bone bx
   - Heme onc following
   - hepatology following
   - Given elevated INR, will likely need FFP if having a procedure.
   - trend K, phos, ca, uric acid, LDH, LFTS, lactate
   - f/u read on liver bx, and depending on results, address possibility
   of CMO vs continuing with treatment with other teams and family.
   # pain control: currently uncontrolled
   -start oxycontin SR 30mg PO BID
   -oxycodone 5-10mg prn for breakthrough
   # Renal failure: unclear etiology at this point, not BPH as has foley
   in, his urine lytes have responded to IVF recently suggesting component
   of intravascular depletion with overall volume overload
   -hepato-renal failure vs intra-abdominal
   -sending tumor lysis labs because of concern of elevated Uric Acid and
   its potential to accumulate in the kidneys
   #  Peripheral edema: likely intravascularly dry but volume overloaded
   -
   #Leukocytosis:
   - Started Vanc/Cefipime for HAP D1 [**8-25**]; Cefepime to Q24H
   - Watch WBC
   -check CXR
   -Vanco trough
   #Low UOP: Given high PSH, could be [**3-11**] enlarged prostate; now with
   elevated Cr
   - Renal U/S
   - concern for hepato-renal syndrome; continue to trend Cr this am now
   s/p more fluids
   #  Abd pain, nausea: both improved; RUQ pain likely [**3-11**] extensive tumor
   invasion and hepatitis.
   - serial abd exam
   - trend LFTs
   - avoid excessive Tylenol
   - f/u hepatitis serologies, HCV negative
   # tachycardia / relative hypotension: BP, HR appears close to VS at
   [**Hospital3 **]. Likely [**3-11**] to fevers and intravascular volume depletion
   (given poor PO intake and low alb).
   - trend VS
   - IVF as needed
   # Tachypneia: pt taking swallow breaths but sating well and appears
   comfortable. Likely splinting 2.2 rib and RUQ pain
   - CXR showed no pleural effusion but elevated diaphragm likely [**3-11**]
   large liver
   - LENIs nomral
   # Hyponatremia: Given dry mucous membranes, elevated BUN, likely
   represents intravascular volume depletion despite LE edema.
   - serum osm  high
   - Send U osm and NA
   # Anemia: HCT stable at 26 at [**Hospital1 **]. Required 4 u pRBC at [**Hospital3 **], also
   guiac postitive stool, but no frank bleed. Given additional illness
   anemia of chronic disease also likely contributing.
   - trend HCT
   1 U PRBC
   u/s pericapsular hematoma, renal u/s
   # Asymetric LE edema: edema likely [**3-11**] hypoalbumenia and possible
   increase in portal hypotension.
   - LENIs negative
   #  Ocular pemphigus. No active concerns.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2137-8-24**] 05:45 PM
   18 Gauge - [**2137-8-26**] 12:18 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending above ; should have family meeting and d/w h/o
   palliative care discussion